US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-fluoro-benzyl)-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-fluorobenzylamine

reactant | 1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=C(C=CC(=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-fluorobenzylamine | FC1=C(CN)C=CC=C1 | C7H8FN
product | 2-[1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-fluoro-benzyl)-acetamide | COC=1C=C(CC2N(CCC3=C(C=CC(=C23)OC)OC)CC(=O)NCC2=C(C=CC=C2)F)C=CC1OC | C29H33FN2O5
